US07449460B2
A mixture of 1.3 g (5.21 mmol) of 7-chloro-4-hydroxy-6-nitro-3-quinolinecarbonitrile (U.S. Pat. No. 6,297,258) and 2.6 g (16.67 mmol) of 4-(1-pyrrolidine)piperidine 17.0 ml of 1-methyl 2-pyrrolidinone is heated at 120° C. for 5 hours. The mixture is cooled to room temperature and stirred with 15 mL of saturated solution of sodium bicarbonate. Following removal of solvents in vacuo, a residue is obtained, which is stirred with ether. The solid is collected by filtration and washed with ether. The crude product is dissolved in 9:1 methylene chloride/methanol, filtered through a pad of Celite (to remove inorganic material) and further washed with 9:1 methylene chloride/methanol. Evaporation of the filtrate to dryness yields a glassy residue. Purification by silica gel chromatography (gradient 9:1 methylene chloride/methanol to 4:1 methylene chloride/methanol) gives 1.3 g of 6-nitro-4-oxo-7-(4-pyrrolidin-1-ylpiperidin-1-yl)-1,4-dihydroquinoline-3-carbonitrile as an orange solid, mp 232-235° C.

reactant | 7-chloro-4-hydroxy-6-nitro-3-quinolinecarbonitrile | 5.21 mmol, 1.3 g | ClC1=C(C=C2C(=C(C=NC2=C1)C#N)O)[N+](=O)[O-] | C10H4ClN3O3
reactant | 1-methyl 2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
product | 6-nitro-4-oxo-7-(4-pyrrolidin-1-ylpiperidin-1-yl)-1,4-dihydroquinoline-3-carbonitrile | 1.3 g | [N+](=O)([O-])C=1C=C2C(C(=CNC2=CC1N1CCC(CC1)N1CCCC1)C#N)=O | C19H21N5O3
